US07989454B2
3-Benzo[1,3]dioxol-5-yl-5-benzyloxy-benzoic acid tert-butyl ester
To a solution of 3-benzo[1,3]dioxol-5-yl-5-benzyloxy-benzoic acid (4.5 g) in toluene (80 mL) was added N,N-dimethylformamide di-tert-butyl acetal (38 mL) and the reaction mixture was stirred at 85° C. for 13 days. Then the reaction mixture was diluted with ethyl acetate, washed with water and brine. The organic extract was concentrated under reduced pressure and purified in a silica gel column using ethyl acetate and hexanes to yield the title compound (4.2 g, 80% yield)

reactant | 3-benzo[1,3]dioxol-5-yl-5-benzyloxy-benzoic acid | 4.5 g | O1COC2=C1C=CC(=C2)C=2C=C(C(=O)O)C=C(C2)OCC2=CC=CC=C2 | C21H16O5
reactant | N,N-dimethylformamide di-tert-butyl acetal | 38 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Benzo[1,3]dioxol-5-yl-5-benzyloxy-benzoic acid tert-butyl ester | 4.2 g, 80% yield | C(C)(C)(C)OC(C1=CC(=CC(=C1)OCC1=CC=CC=C1)C1=CC2=C(OCO2)C=C1)=O | C25H24O5
